US06184225B2
A solution of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-methoxyacetamidoquinazoline (201 mg, 0.5mmol) in methanol (5 ml) and 2M aqueous sodium hydroxide solution (0.5 ml) was stirred at ambient temperature for 1 hour. The mixture was diluted with water and adjusted to pH6 with 2M hydrochloric acid. The precipitated solid was collected by filtration, washed with water, dried and then dissolved in a mixture of methylene chloride and methanol. A 5M solution of hydrogen chloride in isopropanol (0.3 ml) was added and most of the solvent removed by evaporation. The precipitated solid was collected by filtration, washed with methylene chloride and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-methoxyacetamidoquinazoline hydrochloride (70 mg, 36%) as a yellow solid.

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-methoxyacetamidoquinazoline | 0.5mmol, 201 mg | FC1=C(NC2=NC=NC3=CC(=CC=C23)NC(COC)=O)C=C(C(=C1)C)OC(=O)OC | C20H19FN4O5
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | sodium hydroxide | 2M, 0.5 ml | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-methoxyacetamidoquinazoline hydrochloride | 70 mg, 36% | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)NC(COC)=O)C=C(C(=C1)C)O | InChI=1S/C18H17FN4O3.ClH/c1-10-5-13(19)15(7-16(10)24)23-18-12-4-3-11(22-17(25)8-26-2)6-14(12)20-9-21-18;/h3-7,9,24H,8H2,1-2H3,(H,22,25)(H,20,21,23);1H
